Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Motrin / Celexa / Amitriptyline Hcl / Neurontin
 
Attending: ___.
 
Chief Complaint:
N/V/Abd pain/Diarrhea/chest pain/sob  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with a history of pulmonary emboli on 
Coumadin and chronic pain syndrome presents today after 1 week 
of N/V/D and inability to keep down some of her medications, 
including warfarin.  
She reports that her GI symptoms started last ___. No sick 
contact or recent travel. No unusual food, antibiotics, or 
supplements. She reports vomiting and having diarrhea at least 3 
times a day, loose, non-bloody. She has not been able to keep 
her warfarin down. She thought she was going to get better soon, 
but then developed some chest discomfort and shortness of breath 
the night before admission, although these symptoms have 
resolved spontaneously. Because of the chest discomfort and SOB, 
she came to the ED.  
 
In the ED, initial VS were: 97.8 81 148/89 16 99% RA. In the ED, 
patient had GYN ultrasound done, which showed 2.1 x 1.7 x 2.2 cm 
right ovary without a mass or cyst but could not r/o torsion. 
Given the abdominal/pelvic pain with the chest pain/SOB and 
being subtherapeutic, patient underwent CTA, which ruled out PE 
and other acute process in the abdomen/pelvic area. There was 
concern that patient could not manage giving herself Lovenox, 
they decided to admit her for heparin gtt bridging to warfarin. 
She received morphine for pain in the ED as well. VS on 
transfer: 89 158/99 15 100%  
Currently, she denies chest pain, shortness of breath. Abd pain 
is much better. She denies any urinary symptoms such as dysuria 
and frequency or urgency.  

 
Past Medical History:
1. pulmonary embolism - ___ after left knee replacement, second 
after stopping coumadin, currently anti-coagulated on couamdin. 
neg hypercoag eval by heme)  
2. cellulitis - treated earlier this year for abdominal 
cellulitis
3. fibroids s/p supracervical hysterectomy, repair of bowel 
serosa injury, cystoscopy (___)  
4. fibromyalgia - diagnosed earlier this year by PCP ___ "leg 
and back pains"
5. osteoarthritis s/p bilateral knee replacement
6. left leg nerve entrapment 
7. ectopic pregnancy  
8. depression 
9. anxiety  
10. obesity  
11. sleep apnea 
12. migraines
13. GERD
14. chronic lower back pain
 
Social History:
___
Family History:
Father's health unknown except potential h/o stomach cancer; 
Uncle has unknown cancer.
Mother living at ___ with arthritis and osteoporosis
Aunt recently passed at ___ ___nd heart disease.
Grandmother with breast cancer
No siblings
Children healthy
 
Physical Exam:
Admission Exam:
VS: 98.1, 165/95, 87, 18, 100% RA  
GENERAL: well appearing obese F  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, no conjunctival 
injection, MMM  
NECK: supple, no LAD, no JVD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: normal bowel sounds, soft, minimally tender to the 
lower pelvic area, non-distended, no rebound or guarding, no 
masses  
EXTREMITIES: no edema, 2+ pulses radial and dp  
NEURO: awake, A&Ox3,  
.
Discharge Exam:
97.7 108/71 82 18 97%RA
Gen: NAD. Obese body habitus
HEENT: EOMI. MMM. NCAT. PERRL
CV: RRR. NS1&S2. NMRG
Resp: Decreased breath sounds diffusely. No rales/rhonchi/wheeze
GI: Diffuse mild TTP. No rebound or guarding. BS+4. S/ND. No 
organomegaly
Ext: No c/c/e
 
Pertinent Results:
Admission Labs:
___ 06:40PM BLOOD WBC-5.2 RBC-4.39 Hgb-11.8* Hct-37.4 
MCV-85 MCH-26.9* MCHC-31.6 RDW-14.2 Plt ___
___ 06:40PM BLOOD Glucose-87 UreaN-9 Creat-1.0 Na-141 K-4.4 
Cl-104 HCO3-26 AnGap-15
.
Discharge Labs:
___ 07:50AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.0
___ 07:50AM BLOOD WBC-5.8 RBC-4.09* Hgb-10.9* Hct-34.6* 
MCV-85 MCH-26.6* MCHC-31.4 RDW-14.0 Plt ___
___ 07:50AM BLOOD ___ PTT-150* ___
___ 07:50AM BLOOD Glucose-105* UreaN-8 Creat-0.8 Na-141 
K-3.5 Cl-104 HCO3-29 AnGap-12
.
Pertinent Labs:
___ 06:40PM BLOOD CK-MB-2 cTropnT-<0.01
___ 07:50AM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:30AM BLOOD CK-MB-1 cTropnT-<0.01
.
Urine Studies:
___ 06:40PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:40PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-6
___ URINE URINE CULTURE-PENDING 
.
___ CTA Chest/Abd/Pelvis:
1.  No evidence of pulmonary embolus.     
2.  No findings in the abdomen or pelvis to explain the 
patient's symptoms. 
3.  Suspected adherence of small bowel to the anterior pelvic 
wall at an 
incision site and possible adhesions. 
.
___ TVU:
1.  Normal-sized right ovary without an ovarian cyst or mass.  
Arterial and 
venous waveforms were difficult to visualize, which is likely 
technical.  
Ovarian torsion or intermittent torsion cannot be completely 
excluded on the 
basis of this exam, although is thought to be less likely. 
2.  Nonvisualization of the left ovary. 
3.  Status post hysterectomy with a normal cervical remnant. 
.
___ TTE:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. The estimated right atrial pressure is at 
least 15 mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >65%). The 
estimated cardiac index is normal (>=2.5L/min/m2). Tissue 
Doppler imaging suggests a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 
IMPRESSION: Normal biventricular cavity sizes with preserved 
global and regional biventricular systolic function. The aortic 
arch is mildly dilated.
Compared with the prior study (images reviewed) of ___, 
the findings are similar.  
 
Brief Hospital Course:
___ with PMH significant for DVT and PE x2 presented with recent 
episode of chest pain and SOB, sub-therapeutic on coumadin due 
to h/o persistent N/V/D and inability to tolerate meds. 
. 
#Chest pain/SOB: The evening prior to admission, patient 
reported "stabbing" b/l pain that was pleuritic in nature, and 
came on at rest, but eventually resolved on it's own. She was 
concerned for recurrent PE, so she came to the ED the following 
day. CTA ruled out any embolus. EKG on admission unchanged from 
baseline with lead II TWI. On the medical floor she had 
recurrent "sharp" chest pain, and new EKG changes, with TWI in 
V2-V6. CE taken at time of pain were negative, as were CE the 
night before. Evaluated by cardiology who did not believe pain 
to be cardiac in nature, as she has documented EKGs in the past 
with a similiar pattern. TTE failed to reveal any wall motion 
abnormalities. Patient remained chest pain free for duration of 
hospitalization and was discharged home that evening. Most 
likely cause of pain thought to be GERD. Will follow-up with 
outpatient physician to discuss ___ stress test.
.
#H/o PE:  Patient not taking coumadin prior to arrival due to 
N/V/D (see below), and as a result INR was sub-therapeutic at 
1.1. As she wsa high-risk for recurrent PE given multiple prior 
PEs, she was bridged with sub-cutaneous lovenox. Patient has 
scheduled follow-up at ___ for INR draw on 
___.
.
#N/V/D: Patient described 3 day h/o watery diarrhea, and 
non-bilious, non-bloody emesis. This resolved 48 hours prior to 
this presentation. She tolerated full meals while in-house. 
Likely due to viral gastroenteritis vs. partial SBO that had 
since resolved based on CTA findings of bowel adhesion to 
anterior pelvic wall.
.
#Chronic pain: Chronic abdominal pain related to ?ovarian cyst. 
TVU revealed R. ovary w/?torsion. No severe pain on physical 
exam that would be consistent with torsion.  Continued on 
oxycodone until seen by ob-gyn next week.
.
#HTN: Continued lisinopril
.
#Depression/anxiety: Continued wellbutrin, lorazepam, and 
seroquel
.
Transitional Issues;
#Will need INR checked on ___ and lovenox d/c'ed when 
coumadin therapeutic
 
Medications on Admission:
1. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB 
2. BuPROPion 100 mg PO BID 
3. Calcium Carbonate 600 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO DAILY PRN anxiety or insomnia 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO EVERY ___ HR PRN 
pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*10 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
9. Quetiapine Fumarate 400 mg PO QHS 
10. Tizanidine ___ mg PO TID:PRN spasm 
11. Vitamin D ___ UNIT PO DAILY 
12. Warfarin 7.5 mg PO 3X/WEEK (___) 
13. Warfarin 5 mg PO 4X/WEEK (___) 
14. Enoxaparin Sodium 140 mg SC Q12H 
RX *enoxaparin 150 mg/mL 140 mg SC q12 hours Disp #*28 Syringe 
Refills:*0
15. Ambien CR *NF* (zolpidem) 12.5 mg Oral qHS  
16. Clindamycin 1 Appl TP DAILY to scalp 
17. Cyclobenzaprine 10 mg PO TID:PRN spasm 
18. Docusate Sodium 200 mg PO DAILY:PRN constipation 
19. Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS 
20. lidocaine-menthol *NF* ___ % Topical daily prn pain 
21. Sumatriptan Succinate 50 mg PO ONCE PRN headache 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q4-6H PRN SOB 
2. BuPROPion 100 mg PO BID 
3. Calcium Carbonate 600 mg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO DAILY PRN anxiety or insomnia 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO EVERY ___ HR PRN 
pain 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*10 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
9. Quetiapine Fumarate 400 mg PO QHS 
10. Tizanidine ___ mg PO TID:PRN spasm 
11. Vitamin D ___ UNIT PO DAILY 
12. Warfarin 7.5 mg PO 3X/WEEK (___) 
13. Warfarin 5 mg PO 4X/WEEK (___) 
14. Enoxaparin Sodium 140 mg SC Q12H 
RX *enoxaparin 150 mg/mL 140 mg SC q12 hours Disp #*28 Syringe 
Refills:*0
15. Ambien CR *NF* (zolpidem) 12.5 mg Oral qHS  
16. Clindamycin 1 Appl TP DAILY to scalp 
17. Cyclobenzaprine 10 mg PO TID:PRN spasm 
18. Docusate Sodium 200 mg PO DAILY:PRN constipation 
19. Leuprolide Acetate 11.25 mg IM EVERY 3 MONTHS 
20. lidocaine-menthol *NF* ___ % Topical daily prn pain 
21. Sumatriptan Succinate 50 mg PO ONCE PRN headache 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Atypical chest pain
Sub-therapeutic INR

Secondary diagnosis:
history of pulmonary embolus
chronic pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for ___ at ___. ___ were admitted 
because ___ had chest pain, and there was some concern that ___ 
might have another blood clot in your lung (pulmonary embolus). 
We took a CAT scan of your chest and stomach and found no blood 
clot. ___ had more chest pain in the morning, and we took an 
electrocradiogram, blood work, and an echocardiogram, and it 
does not look like ___ had any problem with your heart. ___ 
should have an outpatient stress test within the next ___ months 
to evaluate for blockages in your heart's arteries. 

Because ___ were not able to take your coumadin earlier this 
week, your INR is very low. We started ___ on heparin and then 
lovenox before ___ were discharged. It is important to take both 
lovenox and coumadin until your INR is high again. Please 
follow-up in ___. Clinic to have your INR checked. 

Your nausea, vomiting, and diarrhea had resolved before ___ were 
admitted to ___. These symptoms are most likely to a viral 
illness or to partial bowel obstruction from adhesions. It is 
very important to call your primary care physician if these 
symptoms recur, because it could be a sign of obstruction.

Medications to START:
START lovenox ___ daily until your INR is >2
 
Followup Instructions:
___